US03979385
137 parts of about 90% dioctadecylformamide and 20.5 parts of phosphorous acid were slowly reacted with 34.3 parts of phosphorus trichloride at 70°C and the mixture was maintained for 3 hours at this temperature. At this time, it was hydrolyzed with 500 parts of water. The product was filtered by suction, and the residue was dissolved in alcohol, precipitated again with acetone, isolated and dried in vacuo at 50°C over P2O5. N,N-dioctadecylaminomethanediphosphonic acid was obtained in a yield of 65%.

reactant | dioctadecylformamide | C(CCCCCCCCCCCCCCCCC)N(C=O)CCCCCCCCCCCCCCCCCC | C37H75NO
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N,N-dioctadecylaminomethanediphosphonic acid | yield of 65% | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)C(P(O)(=O)O)P(O)(=O)O | C37H79NO6P2
